US05703096
11(a) 5-{4-[2-(3-Phenyl-5-pyridylmethyleneaminooxy)-ethoxy]benzyl}-3-tritylthiazolidine-2,4-dione
Following a procedure similar to that described in Example 1(a), but using 354 mg of 2-(3-phenyl-5-pyridylmethyleneaminooxy) ethanol (prepared as described in Preparation 11), 510 mg of 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione, 383 mg of triphenylphosphine and 255 mg of diethyl azodicarboxylate, 550 mg of the title compound were obtained as a foam-like solid.

reactant | 2-(3-phenyl-5-pyridylmethyleneaminooxy) ethanol | 354 mg | C1(=CC=CC=C1)C=1C=NC=C(C1)C=NOCCO | C14H14N2O2
reactant | 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione | 510 mg | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | triphenylphosphine | 383 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 255 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 5-{4-[2-(3-Phenyl-5-pyridylmethyleneaminooxy)-ethoxy]benzyl}-3-tritylthiazolidine-2,4-dione | 550 mg | C1(=CC=CC=C1)C=1C=NC=C(C1)C=NOCCOC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C43H35N3O4S
